US07582638B2
Add Tf2O (80 mL) dropwise to a cool solution (−78° C.) of 3-hydroxy-2-hydroxymethyl-2-methyl-propionic acid methyl ester (Preparation 5, 32.5 g) in dichloromethane (400 mL) and 2,6-lutidine (80 mL). Allow the reaction to reach room temperature. and stir for about 2 hours. Dilute with dichloromethane (400 mL) and wash with HCl (3% aqueous solution). Dry the organic layer over MgSO4, filter and concentrate. Subject residue to silica gel chromatography eluting with hexanes/ethyl acetate 5%, to give 2-methyl-2,3-bis-trifluoromethanesulfonyloxy-propionic acid methyl ester as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ ppm 4.7 (d, 2H, J=10.3 Hz), 4.5 (d, 2H, J=10.3 Hz), 3.8 (s, 3H), 1.4 (s, 3H).

reactant | Tf2O | 80 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 3-hydroxy-2-hydroxymethyl-2-methyl-propionic acid methyl ester | 32.5 g | COC(C(CO)(C)CO)=O | C6H12O4
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | 2,6-lutidine | 80 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2-methyl-2,3-bis-trifluoromethanesulfonyloxy-propionic acid methyl ester | COC(C(COS(=O)(=O)C(F)(F)F)(OS(=O)(=O)C(F)(F)F)C)=O | C7H8F6O8S2
